US06737435B1
Ethyl 5-acetoxy-3-chloroindole-2-carboxylate
A solution of ethyl 5-acetoxyindole-2-carboxylate (500 mg) in dichloromethane (10 ml) was stirred at room temperature in the presence of N-chlorosuccinimide (297 mg) and potassium carbonate (279 mg) overnight. The resulting precipitate was collected by filtration, washed with cold dichloromethane followed by water and dried under vacuum overnight to give the desired product as a white powder (425 mg, 75%). NMR: δ 1.35 (t,3H), 2.25 (s,3H), 4.4 (q,2H), 7.1 (d,1H), 7.3 (s, 1H), 7.5 (d, 1H), 12.2 (s, 1H); m/z 281.9 (M+H+).

reactant | ethyl 5-acetoxyindole-2-carboxylate | 500 mg | C(C)(=O)OC=1C=C2C=C(NC2=CC1)C(=O)OCC | C13H13NO4
reactant | N-chlorosuccinimide | 297 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | potassium carbonate | 279 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Ethyl 5-acetoxy-3-chloroindole-2-carboxylate | 425 mg, 75% | C(C)(=O)OC=1C=C2C(=C(NC2=CC1)C(=O)OCC)Cl | C13H12ClNO4
